US05155106
The N-(2-methoxymethoxy-3-n-propyl-4-methoxybenzoyl)thiazolidine (9.0 g) was dissolved in a solution of methanol (100 ml)-water (20 ml). To the solution was added p-toluenesulfonic acid (2 spoonfuls in spatula) and the mixture was agitated at 60° C. for 23 hours. The reaction mixture was concentrated in evacuated atomosphere to about one fourth of the original volume. Saturated aqueous solution of sodium bicarbonate was added to the concentrate, and the mixture was extracted twice with ethyl acetate. The organic layer was washed with saturated aqueous solution of sodium chloride, dried over anhydrous magnesium sulfate, and concentrated in evacuated atomosphere. The residue was subjected to column chromatography using silica gel, and there was obtained N-(2-hydroxy-3-n-propyl-4-methoxybenzoyl)thiazolidine (7.3 g) from fractions eluted with n-hexane-ethyl acetate (5:1).

reactant | N-(2-methoxymethoxy-3-n-propyl-4-methoxybenzoyl)thiazolidine | 9.0 g | COCOC1=C(C(=O)N2CSCC2)C=CC(=C1CCC)OC | C16H23NO4S
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | methanol | 100 ml | CO | CH4O
solvent | water | 20 ml | O | H2O
product | N-(2-hydroxy-3-n-propyl-4-methoxybenzoyl)thiazolidine | 7.3 g | OC1=C(C(=O)N2CSCC2)C=CC(=C1CCC)OC | C14H19NO3S
